US04885152
A THF solution of 158 mg 7-chloro-2,3-dihydro-5-(2-iodophenyl)-1-methyl-1H-1,4-benzodiazepine and a sodium bicarbonate aqueous solution were simultaneously added by drops to a THF solution of N-bromosuccinimide at room temperature. After the mixture had been stirred at the same temperature for additional 30 minutes, water was poured thereinto and the resulting mixture was extracted with ethyl acetate. Purifying the crude product by silica gel column chromatography gave 140 mg of 2'-iododiazepam.

reactant | THF | C1CCOC1 | C4H8O
reactant | 7-chloro-2,3-dihydro-5-(2-iodophenyl)-1-methyl-1H-1,4-benzodiazepine | 158 mg | ClC=1C=CC2=C(C(=NCCN2C)C2=C(C=CC=C2)I)C1 | C16H14ClIN2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | water | O | H2O
product | 7-chloro-1-methyl-5-(2-iodophenyl)-3H-1,4-benzodiazepin-2-one | 140 mg | ClC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)I)C1 | C16H12ClIN2O
